* C:\Users\twsue_000\Documents\GitHub\IdealDiodeModel\bin\Debug\DiodeModel.asc
I1 N003 N001 5.9375
D1 N001 N003 ID1
Rs1 N001 N002 0.00768
Rsh1 N001 N003 64
I2 N005 N004 4.375
D2 N004 N005 ID2
Rs2 N004 N003 0.00768
Rsh2 N004 N005 64
I3 N007 N006 5.9375
D3 N006 N007 ID3
Rs3 N006 N005 0.00768
Rsh3 N006 N007 64
I4 0 N008 5.9375
D4 N008 0 ID4
Rs4 N008 N007 0.00768
Rsh4 N008 0 64
V1 N002 0 0
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model ID1 D(Is=1.5625E-11 N=1 Tnom=25)
.model ID2 D(Is=1.5625E-11 N=1 Tnom=25)
.model ID3 D(Is=1.5625E-11 N=1 Tnom=25)
.model ID4 D(Is=1.5625E-11 N=1 Tnom=25)
.dc V1 0 3.2 0.02
.save I(V1) V(n002) V(n003) V(n005) V(n007)
.backanno
.end
